US05185351
(i) (E)-3-[2-n-butyl-1-{(2-chlorophenyl)methyl}-1H-imidazol-5-yl]-2-(2-thienyl)methyl-2-propenol
To a solution of methyl (E)-3-[2-n-butyl-1-{(2-chlorophenyl)methyl}-1H-imidazol-5-yl]-2-(2-thienyl)methyl-2-propenoate, prepared in Example 1, {(2.60 g. 6.06 mmol) in 35 mL of tetrahydrofuran at -78° C. under argon was added a solution of diisobutylaluminum hydride (1.5M, 8.9 mL, 13.3 mmol). After the addition was complete, the reaction mixture was allowed to warm to room temperature, with stirring being continued for one hour. The reaction was worked up by the slow addition of methanol, followed by the addition of glacial acetic acid, then four drops of 10% aqueous hydrochloric acid solution. Water (10 mL) was added and the reaction mixture was stirred at room temperature overnight. The product was extracted with ethyl acetate (3×75 mL) after 40 mL of water had been added to the mixture. The combined extracts were dried with anhydrous magnesium sulfate and the solvents were removed in vacuo. The residue was triturated with diethyl ether. The resulting solid was filtered to give 1.72 g (71%) of product; mp 114°-115° C.

reactant | methyl (E)-3-[2-n-butyl-1-{(2-chlorophenyl)methyl}-1H-imidazol-5-yl]-2-(2-thienyl)methyl-2-propenoate | C(CCC)C=1N(C(=CN1)/C=C(/C(=O)OC)\CC=1SC=CC1)CC1=C(C=CC=C1)Cl | C23H25ClN2O2S
reactant | diisobutylaluminum hydride | 13.3 mmol, 1.5M, 8.9 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methanol | CO | CH4O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 35 mL | O1CCCC1 | C4H8O
catalyst | hydrochloric acid | four drops | Cl | ClH
solvent | Water | 10 mL | O | H2O
product | (E)-3-[2-n-butyl-1-{(2-chlorophenyl)methyl}-1H-imidazol-5-yl]-2-(2-thienyl)methyl-2-propenol | 1.72 g, 71% | C(CCC)C=1N(C(=CN1)/C=C(/CO)\CC=1SC=CC1)CC1=C(C=CC=C1)Cl | C22H25ClN2OS
